US05525619
5-[4-(tetrahydropyran-3-ylmethoxy)phenyl]-3-methoxyethyl-1,3,4-oxadiazol-2(3H)-one
2 g of 5-(4-hydroxyphenyl)-3-methoxyethyl-1,3,4-oxadiazol-2(3H)-one are dissolved in acetonitrile, followed by addition of 2.92 g of potassium carbonate and a solution of 3.12 g of 3-tetrahydropyranylmethyl mesylate in acetonitrile. The mixture is heated to reflux for 5 h and then filtered, diluted with ethyl acetate and washed with three times 50 ml of 2N sodium hydroxide. The organic phase is then washed with water until neutral, dried over sodium sulphate and filtered, and the solvent is then evaporated off. After two recrystallizations in diisopropyl ether, 0.7 g of product is obtained.

reactant | 5-(4-hydroxyphenyl)-3-methoxyethyl-1,3,4-oxadiazol-2(3H)-one | 2 g | OC1=CC=C(C=C1)C1=NN(C(O1)=O)CCOC | C11H12N2O4
reactant | potassium carbonate | 2.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-tetrahydropyranylmethyl mesylate | 3.12 g | S(C)(=O)(=O)OCC1COCCC1 | C7H14O4S
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-[4-(tetrahydropyran-3-ylmethoxy)phenyl]-3-methoxyethyl-1,3,4-oxadiazol-2(3H)-one | 0.7 g | O1CC(CCC1)COC1=CC=C(C=C1)C1=NN(C(O1)=O)CCOC | C17H22N2O5
